US07579370B2
1.1.d) Synthesis of 4-vinylfuran-2-carbaldehyde
The title compound was synthesized from 4-bromo-furan-2-carbaldehyde (1.1 g, 6.29 mmol) and vinylboronic acid dibutyl ester (1.67 mL, 7.54 mmol) using the same conditions used to synthesize 5-benzyl-furan-2-carbaldehyde, with the exception that the reaction was run in N,N-dimethylformamide (DMF) (20 mL). Purification by flash chromatography (0-30% EtOAc in heptane) provided 4-vinylfuran-2-carbaldehyde as an orange oil; Yield 282 mg (37%). 1H NMR (400 MHz, CDCl3) δ ppm 5.31 (dd, J=10.88, 0.93 Hz, 1 H), 5.61 (dd, J=17.57, 0.54 Hz, 1 H), 6.56 (dd, J=17.55, 10.91 Hz, 1 H), 7.37 (s, 1 H), 7.67 (s, 1 H), 9.66 (d, J=0.59 Hz, 1 H).

reactant | 4-bromo-furan-2-carbaldehyde | 6.29 mmol, 1.1 g | BrC=1C=C(OC1)C=O | C5H3BrO2
reactant | vinylboronic acid dibutyl ester | 7.54 mmol, 1.67 mL | C(CCC)OB(OCCCC)C=C | C10H21BO2
reactant | 5-benzyl-furan-2-carbaldehyde | C(C1=CC=CC=C1)C1=CC=C(O1)C=O | C12H10O2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 4-vinylfuran-2-carbaldehyde | C(=C)C=1C=C(OC1)C=O | C7H6O2
